US06133460
7-acetoxy-3-bromomethylcoumarin (630 mg) was stirred overnight with potassium phthalimide (432 mg, 2.33 mmol) in DMF (100 mL). The reaction solvent was evaporated and the reaction partitioned between CH2Cl2 and water, then washed several times with water, then with aqueous NaHCO3. The organic layer was dried with brine, then with anhydrous sodium sulfate and evaporated. The crude product was recrystallized in acetic acid to give 7-acetoxy-3-phthalimidomethylcoumarin (375 mg, >95% purity), an off-white solid. 1H NMR (CDCl3): δ 7.73-7.97 (m, 4H), 7.53 (s, 1H), 7.43 (d, J=8.4 Hz, 1H), 7.13 (s, 1H), 7.03 (dd, J=7.5, 2.1, 1H), 4.82 (s, 2H), 2.33 (s, 3H).

reactant | 7-acetoxy-3-bromomethylcoumarin | 630 mg | C(C)(=O)OC1=CC=C2C=C(C(OC2=C1)=O)CBr | C12H9BrO4
reactant | potassium phthalimide | 2.33 mmol, 432 mg | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 7-acetoxy-3-phthalimidomethylcoumarin | 375 mg, >95% | C(C)(=O)OC1=CC=C2C=C(C(OC2=C1)=O)CN1C(C=2C(C1=O)=CC=CC2)=O | C20H13NO6
